### PR TITLE
Lemma 5.2.10, Task 58

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
For the discussion on why `BorelSpace X` is needed in `HardyLittlewood.lean` see https://leanprover.zulipchat.com/#narrow/stream/442935-Carleson/topic/How.20to.20prove.20a.20ball.20is.20measurable/near/455002668

### CODE REVIEW

File: Carleson/ToMathlib/Misc.lean [hunk 1]
```diff
@@ -131,6 +131,32 @@ lemma ENNReal.sum_geometric_two_pow_neg_two :
...
+    obtain ⟨n, mn⟩ := n
+    rw [mem_support, ne_eq, ite_eq_right_iff, Classical.not_imp] at mn
+    simp only [Subtype.mk.injEq]; omega
+  right_inv n' := by
+    obtain ⟨n', mn'⟩ := n'
+    simp only [Subtype.mk.injEq]; omega
+
+lemma tsum_geometric_ite_eq_tsum_geometric {k c : ℕ} :
+    (∑' (n : ℕ), if k ≤ n then (2 : ℝ≥0∞) ^ (-c * (n - k) : ℤ) else 0) =
+    ∑' (n : ℕ), 2 ^ (-c * n : ℤ) := by
```
Comment (fpvandoorn) [inline Carleson/ToMathlib/Misc.lean:154]: This proof can probably be simplified with [tsum_extend_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Basic.html#tsum_extend_zero) (where `g = (. + k)`) or [Function.Injective.tsum_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Basic.html#Function.Injective.tsum_eq). Please do that in a follow-up PR.

**Comment by fpvandoorn** [comment]
Great! Thanks!
